US05008277
To a stirred solution of N-[[[2-[1-(3,4-dichlorophenyl)-2,2,2-trifluoroethoxy]pyridin-5-yl]amino]carbonyl]2,6-difluorobenzamide (1.0 g, 0.002 mole) in 1,2-dichloroethane (10 ml) was added oxalyl chloride (0.24 g, 0.0020 mole). This mixture was heated at reflux for five days. Additional oxalyl chloride (0.24 g) was added, and refluxing was continued for one more day. The solvent was removed from the reaction mixture by distillation under reduced pressure, leaving an oil. This oil was purified by column chromatography on silica gel, elution with toluene: ethyl acetate (9:1), yielding 0.84 g of 1-[(2,6-difluorophenyl)carbonyl]-3-[2-[1-(3,4-dichlorphenyl)2,2,2-trifluoroethoxy]pyridin-5-yl]imidazolidinetrione as a solid (mp 160° C.). The nmr and ir spectra were consistent with the proposed structure.

reactant | N-[[[2-[1-(3,4-dichlorophenyl)-2,2,2-trifluoroethoxy]pyridin-5-yl]amino]carbonyl]2,6-difluorobenzamide | 0.002 mole, 1.0 g | ClC=1C=C(C=CC1Cl)C(C(F)(F)F)OC1=NC=C(C=C1)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C21H12Cl2F5N3O3
reactant | oxalyl chloride | 0.0020 mole, 0.24 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.24 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1-[(2,6-difluorophenyl)carbonyl]-3-[2-[1-(3,4-dichlorphenyl)2,2,2-trifluoroethoxy]pyridin-5-yl]imidazolidinetrione | 0.84 g | FC1=C(C(=CC=C1)F)C(=O)N1C(N(C(C1=O)=O)C=1C=CC(=NC1)OC(C(F)(F)F)C1=CC(=C(C=C1)Cl)Cl)=O | C23H10Cl2F5N3O5
